US06979696B2
To a solution of 1-Bromo-2-fluoro-4-methyl-benzene (5.35 g, 28.30 mmol) in concentrated sulfuric acid (25 ml) was added concentrated nitric acid(9 ml) dropwise while maintaining an internal reaction temperature below 20° C. The reaction mixture was stirred at 0° C. for 10 minutes and poured into ice water. The resulting mixture was extracted three times with ether. The combined ether extracts were washed with brine, dried (anhydrous sodium sulfate) and concentrated under reduced pressure. The residue was purified by flash column chromatography over silica gel eluting with 2 to 3% ethyl acetate in hexanes give 1-Bromo-2-fluoro-4-methyl-5-nitro-benzene as a white solid (5.21g, 78%).

reactant | 1-Bromo-2-fluoro-4-methyl-benzene | 28.30 mmol, 5.35 g | BrC1=C(C=C(C=C1)C)F | C7H6BrF
reactant | nitric acid | 9 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 1-Bromo-2-fluoro-4-methyl-5-nitro-benzene | 5.21g, 78% | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)F | C7H5BrFNO2
